US07199243B2
2-methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid ethyl ester (6.0 g, 21.03 mmol) was dissolved in methanol (70 mL) and followed by the addition of 37% HCl (5.3 mL) and 10% Pt/C (0.60 g). The mixture was shaken with hydrogen under 50 psi at 50° C. in a Parr bottle for 5 h, filtered through a pad of Celite, and rinsed with methanol. GC/MS showed complete hydrogenation and only 50% of methyl ester conversion. Concentrated H2SO4 (2.0 mL) was added to the filtrate and the resulting solution was allowed to reflux under nitrogen overnight. After removal of excess methanol, the residue was treated with saturated Na2CO3 (150 mL) and extracted with ethyl acetate (2×200 mL). The organic extract was washed with water, dried over sodium sulfate, and concentrated to give 4.80 g (82%) of 2-methyl-2-(3-piperidin-3-yl-phenoxy)-propionic acid methyl ester as a yellow oil: 1H NMR (CDCl3) δ 1.59 (s, 6H), 1.78 (br, 1H), 1.97 (br d, 1H), 2.02 (br, 2H), 2.61 (m, 3H), 3.06 –3.13 (m, 2H), 3.76 (s, 3H), 6.61 (dd, 1H), 6.70 (s, 1H), 6.83 (d, 1H), 7.14 (t, 1H); MS m/z (relative intensity) 277 (M+, 2), 218 (6), 176 (100).

reactant | 2-methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid ethyl ester | 21.03 mmol, 6.0 g | C(C)OC(C(C)(OC1=CC(=CC=C1)C=1C=NC=CC1)C)=O | C17H19NO3
reactant | HCl | 5.3 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 mL | CO | CH4O
catalyst | Pt/C | 0.60 g | [Pt] | Pt
product | 2-methyl-2-(3-piperidin-3-yl-phenoxy)-propionic acid methyl ester | 4.80 g, 82% | COC(C(C)(OC1=CC(=CC=C1)C1CNCCC1)C)=O | C16H23NO3
